US05700761
Preparation of 2-chloro-4-fluoro-5-nitrobenzoic acid
A blend of 70% nitric acid (64.5 gm) and concentrated sulfuric acid (65 mL) was added dropwise over an hour period to a suspension of 2-chloro-4-fluoro-benzoic acid (125.0 gm, 716 mL). The white suspension was stirred mechanically for 30 minutes at ambient temperature. The thick white suspension was carefully poured into ice-water (100 mL). Ethyl acetate (800 mL) was added. The organic layer was separated, dried (MgSO4) and evaporated to dryness under vacuum to give the title compound of Step A as a white solid (156.0 gm, 99%); m.p. 134°-136° C.; IR (cm-1), C=O (1719.8). This intermediate was used without further purification.

reactant | nitric acid | 64.5 gm | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 65 mL | S(O)(O)(=O)=O | H2O4S
reactant | 2-chloro-4-fluoro-benzoic acid | 716 mL, 125.0 gm | ClC1=C(C(=O)O)C=CC(=C1)F | C7H4ClFO2
solvent | Ethyl acetate | 800 mL | C(C)(=O)OCC | C4H8O2
product | 2-chloro-4-fluoro-5-nitrobenzoic acid | 156.0 gm, 99% | ClC1=C(C(=O)O)C=C(C(=C1)F)[N+](=O)[O-] | C7H3ClFNO4
